US05521170
To a solution of acetyl chloride (1 ml) and methanol (20 ml) was added 1-{4-[2-(2-carboxyphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline (350 mg) at 0° C. The solution was stirred for 30 minutes at the same temperature and then stirred for 3 hours at ambient temperature. The solvent was evaporated in vacuo and triturated from dichloromethane to give 1-{4-[2-(2methoxycarbonylphenyl)benzoylamino]benzoyl}-1,2,3,4tetrahydroquinoline (300 mg).

reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1-{4-[2-(2-carboxyphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline | 350 mg | C(=O)(O)C1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C30H24N2O4
solvent | methanol | 20 ml | CO | CH4O
product | 1-{4-[2-(2methoxycarbonylphenyl)benzoylamino]benzoyl}-1,2,3,4tetrahydroquinoline | 300 mg | COC(=O)C1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C31H26N2O4
